US07943669B2
Step B: {4-[3-(4-Methanesulfonyl-phenylethynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{{4-[3-(4-Methanesulfonyl-phenylethynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (168 mg; 0.26 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate, dried and evaporated to dryness. The organic phase was purified by preparative HPLC (method B). Yield: 120 mg (75%). HPLC-MS: m/z: 614.1 (M+H)+; Rt: 2.45 min.

reactant | {4-[3-(4-Methanesulfonyl-phenylethynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.26 mmol, 168 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=C(C=C1)C(F)(F)F)C#CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C32H26F3NO6S2
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {4-[3-(4-Methanesulfonyl-phenylethynyl)-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | CS(=O)(=O)C1=CC=C(C=C1)C#CC=1C=C(C=C(C1)OC1=NC=C(C=C1)C(F)(F)F)SC1=CC(=C(OCC(=O)O)C=C1)C | C30H22F3NO6S2
